US09326987B2
2,4-Difluoro-N-[5-[4-(5-{[4-(1-methylethyl)-1-piperazinyl]methyl}-1,3-oxazol-2-yl)-1-(phenylsulfonyl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinyl]benzenesulfonamide
To a solution of 6-chloro-4-(5-{[4-(1-methylethyl)-1-piperazinyl]methyl}-1,3-oxazol-2-yl)-1-(phenylsulfonyl)-1H-indazole (0.2 g, 0.40 mmol) and 2,4-difluoro-N-[2-(methoxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinyl]benzenesulfonamide (0.222 g, 0.52 mmol) in 1,4-dioxane (2 ml) was added chloro[2′-(dimethylamino)-2-biphenylyl]palladium-1(1R,4S)-bicyclo[2.2.1]hept-2-yl[(1S,4R)-bicyclo[2.2.1]hept-2-yl]phosphane (11.2 g, 0.020 mmol), potassium phosphate tribasic (0.255 g, 1.20 mmol) and water (0.2 ml). The reaction mixture was heated to 120° C. with stirring for 3 h under microwave irradiation then filtered through a silica SPE, eluting with methanol. The solvent was removed in vacuo and the residue partitioned between dichloromethane (5 ml) and water (5 ml). The layers were separated and the aqueous extracted with further dichloromethane (2×2 ml). The combined organics were concentrated under a stream of nitrogen and the residue purified using silica gel chromatography, eluting with 0-25% methanol in dichloromethane. The appropriate fractions were evaporated in vacuo to give the title compound as a brown solid (0.081 g).

reactant | 6-chloro-4-(5-{[4-(1-methylethyl)-1-piperazinyl]methyl}-1,3-oxazol-2-yl)-1-(phenylsulfonyl)-1H-indazole | 0.40 mmol, 0.2 g | ClC1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C=1OC(=CN1)CN1CCN(CC1)C(C)C | C24H26ClN5O3S
reactant | 2,4-difluoro-N-[2-(methoxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-pyridinyl]benzenesulfonamide | 0.52 mmol, 0.222 g | FC1=C(C=CC(=C1)F)S(=O)(=O)NC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)OC | C18H21BF2N2O5S
reactant | potassium phosphate tribasic | 1.20 mmol, 0.255 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | water | 0.2 ml | O | H2O
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
catalyst | chloro[2′-(dimethylamino)-2-biphenylyl]palladium 1(1R,4S)-bicyclo[2.2.1]hept-2-yl[(1S,4R)-bicyclo[2.2.1]hept-2-yl]phosphane | 0.020 mmol, 11.2 g | Cl[Pd]C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C.[C@@H]12C(C[C@@H](CC1)C2)PC2[C@H]1CC[C@@H](C2)C1
product | 2,4-Difluoro-N-[5-[4-(5-{[4-(1-methylethyl)-1-piperazinyl]methyl}-1,3-oxazol-2-yl)-1-(phenylsulfonyl)-1H-indazol-6-yl]-2-(methyloxy)-3-pyridinyl]benzenesulfonamide | 0.081 g | FC1=C(C=CC(=C1)F)S(=O)(=O)NC=1C(=NC=C(C1)C1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C=1OC(=CN1)CN1CCN(CC1)C(C)C)OC | C36H35F2N7O6S2
